2173-03-31 08:04:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 MIDLINE - START [**2173-3-30**] 05:24 PM inserted in [**Hospital **] rehab
   - got 2 units prbc overnight, NGT lavaged - no active bleed.
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-3-31**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**74**] AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.6
C (96
   HR: 96 (90 - 107) bpm
   BP: 108/55(67) {90/38(51) - 116/55(68)} mmHg
   RR: 21 (9 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  1,288 mL
                                                                    896 mL
   PO:
           TF:
   IVF:
                                                                  1,136 mL
                                                                    299 mL
   Blood products:
                                                                    152 mL
                                                                    598 mL
   Total out:
                                                                    565 mL
                                                                    280 mL
   Urine:
                                                                    565 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    723 mL
                                                                    616 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   293 K/uL
   9.9 g/dL
   173 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.6 mEq/L
   16 mg/dL
   107 mEq/L
   141 mEq/L
   28.9 %
   9.6 K/uL
        [image002.jpg]
                             [**2173-3-30**]  05:55 PM
                             [**2173-3-30**]  09:59 PM
                             [**2173-3-31**]  03:53 AM
   WBC
   9.6
   Hct
   28.2
   23.0
   28.9
   Plt
   293
   Cr
   0.6
   Glucose
   173
   Other labs: PT / PTT / INR:13.2/24.1/1.1, ALT / AST:31/27, Alk Phos / T
   Bili:112/0.7, Lactic Acid:1.4 mmol/L, Albumin:2.9 g/dL, Ca++:7.2 mg/dL,
   Mg++:2.1 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   85 y.o. male with dementia and multiple other medical issues presenting
   with melena and drifting HCT s/p recent hospitalization at OSH for
   appy/ARDS.
   .
   # GI bleed: unclear the source, need to r/o UGIB.
   - place ngt for suctioning procedure - r/o ugib
   - NPO, IVF
   - T&S, Q4H hct check, transfuse > 28, 2 large IV
   - IV protonix gtt
   - daily stool guaiac
   - GI recs
   .
   # ILD/COPD: recent hospitalization in OSH was discharged with
   prednisone [**Doctor Last Name 6364**].
   - continue to [**Doctor Last Name 6364**] steroids
   - nebs q6
   - f/u CXR
   .
   # buttocks herpes zoster: continue on acyclovir
   .
   # aflutter/MAT: not present on EKG, control on BB
   - hold metoprolol
   .
   # CAD s/p PCI: currently stable, no concerning ekg changes
   - holding plavix
   - monitor on tele
   .
   # HLD: continue zocor
   .
   # depression: continue zoloft
   .
   # DM: ISS
   .
   FEN: IVF, replete electrolytes, NPO
   .
   Prophylaxis: pboots
   .
   Access: peripherals
   .
   Code:  Full
   .
   Communication: Patient
   .
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2173-3-30**] 05:24 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2173-03-31 10:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 MIDLINE - START [**2173-3-30**] 05:24 PM inserted in [**Hospital **] rehab
   - got 2 units prbc overnight, NGT lavaged - no active bleed.
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-3-31**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**74**] AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.6
C (96
   HR: 96 (90 - 107) bpm
   BP: 108/55(67) {90/38(51) - 116/55(68)} mmHg
   RR: 21 (9 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  1,288 mL
                                                                    896 mL
   PO:
           TF:
   IVF:
                                                                  1,136 mL
                                                                    299 mL
   Blood products:
                                                                    152 mL
                                                                    598 mL
   Total out:
                                                                    565 mL
                                                                    280 mL
   Urine:
                                                                    565 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    723 mL
                                                                    616 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   293 K/uL
   9.9 g/dL
   173 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.6 mEq/L
   16 mg/dL
   107 mEq/L
   141 mEq/L
   28.9 %
   9.6 K/uL
        [image002.jpg]
                             [**2173-3-30**]  05:55 PM
                             [**2173-3-30**]  09:59 PM
                             [**2173-3-31**]  03:53 AM
   WBC
   9.6
   Hct
   28.2
   23.0
   28.9
   Plt
   293
   Cr
   0.6
   Glucose
   173
   Other labs: PT / PTT / INR:13.2/24.1/1.1, ALT / AST:31/27, Alk Phos / T
   Bili:112/0.7, Lactic Acid:1.4 mmol/L, Albumin:2.9 g/dL, Ca++:7.2 mg/dL,
   Mg++:2.1 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   85 y.o. male with dementia and multiple other medical issues presenting
   with melena and drifting HCT s/p recent hospitalization at OSH for
   appy/ARDS.
   .
   # GI bleed: unclear the source, need to r/o UGIB.
   - place ngt for suctioning procedure - r/o ugib
   - NPO, IVF
   - T&S, Q4H hct check, transfuse > 28, 2 large IV
   - IV protonix gtt
 change to [**Hospital1 **] at 5 pm tonight
   - daily stool guaiac
   - GI recs: intubate prior to EGD
   - plan to hold scope and arrange on floor
   .
   # ILD/COPD: recent hospitalization in OSH was discharged with
   prednisone [**Doctor Last Name 6364**].
   - continue to [**Doctor Last Name 6364**] steroids
   - nebs q6
   - f/u CXR
   .
   # buttocks herpes zoster: continue on acyclovir
   .
   # aflutter/MAT: not present on EKG, control on BB
   - hold metoprolol
   .
   # CAD s/p PCI: currently stable, no concerning ekg changes
   - holding plavix
   - monitor on tele
   .
   # HLD: continue zocor
   .
   # depression: continue zoloft
   .
   # DM: ISS
   .
   FEN: IVF, replete electrolytes, NPO
   .
   Prophylaxis: pboots
   .
   Access: peripherals
   .
   Code:  Full
   .
   Communication: Patient
   .
   Disposition: pending clinical improvement
 call out
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2173-3-30**] 05:24 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2173-03-31 10:25:00 Physician Attending Progress Note
Chief Complaint: GI bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   NG lavage last PM without evidence for acute UGI bleeding.
   Received 2 units PRBC overnight.
   No new complaints this AM.
   Denies dyspnea or chest pain.
   History obtained from [**Hospital 31**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Flowsheet Data as of  [**2173-3-31**] 10:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**74**] AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.9
C (96.6
   HR: 99 (90 - 107) bpm
   BP: 115/49(61) {90/38(51) - 116/55(68)} mmHg
   RR: 13 (9 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  1,288 mL
                                                                  1,084 mL
   PO:
           TF:
   IVF:
                                                                  1,136 mL
                                                                    486 mL
   Blood products:
                                                                    152 mL
                                                                    598 mL
   Total out:
                                                                    565 mL
                                                                    330 mL
   Urine:
                                                                    565 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    723 mL
                                                                    754 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///28/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.9 g/dL
   293 K/uL
   173 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.6 mEq/L
   16 mg/dL
   107 mEq/L
   141 mEq/L
   29.5 %
   9.6 K/uL
        [image002.jpg]
                             [**2173-3-30**]  05:55 PM
                             [**2173-3-30**]  09:59 PM
                             [**2173-3-31**]  03:53 AM
                             [**2173-3-31**]  07:54 AM
   WBC
   9.6
   Hct
   28.2
   23.0
   28.9
   29.5
   Plt
   293
   Cr
   0.6
   Glucose
   173
   Other labs: PT / PTT / INR:13.2/24.1/1.1, ALT / AST:31/27, Alk Phos / T
   Bili:112/0.7, Lactic Acid:1.4 mmol/L, Albumin:2.9 g/dL, Ca++:7.2 mg/dL,
   Mg++:2.1 mg/dL, PO4:1.7 mg/dL
   Imaging: CXR ([**2173-3-30**]) -- diffuse interstial infiltrates, including
   small patchy alveolar infiltrates.
   Assessment and Plan
   GI BLEED
 With dark stool, concern for UGI source.  No active UGI
   bleeding as NG lavage negative.  Concerns include PUD, steroid-induced
   gastritis.  GI consultation following.  Monitor serial Hct, serial
   exam.  Iv access with PICC and peripheral iv.  Continue PPI.  [**Month (only) 11**]
   require intubation for EGD procedure.  Discuss timing of EGD with GI
   service.
   DIFFUSE PULMONARY INFILTRATES -- attributed to ARDS during recent
   hospitalization.  Taper steroids.
   ANEMIA
 attributed to GI blood loss;  may in part be related to recent
   surgery (minimally invasive).  Monitor serial Hct, transfuse to Hct >
   28.
   FLUIDS
 suspect hypovolemia. Plan replete iv.  Monitor I/O.
   CAD
 clinically stable.  Monitor.
   HYPERGLYCEMIA
 monitor glucose, manitain <150.
   COPD
 mild exacerbation.  Monitor exam.  F/U CXR.  Continue
   b-agonist.  Steroids.
   H. Zoster
 continue acyclovir.
   NUTRITIONAL SUPPORT
 NPO pending evaluation.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2173-3-30**] 05:24 PM
   20 Gauge - [**2173-3-31**] 07:59 AM
   22 Gauge - [**2173-3-31**] 08:21 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 40 minutes

2173-04-01 11:59:00 Physician Attending Progress Note
Chief Complaint: GI bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Offers no new complaints.
   Continues to experience oxygen desaturation with activity, now
   requiring higher FiO2.
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Acyclovir - [**2173-3-31**] 02:00 PM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2173-4-1**] 11:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**74**] AM
   Tmax: 36.7
C (98
   Tcurrent: 36.3
C (97.3
   HR: 106 (96 - 113) bpm
   BP: 131/57(72) {92/43(57) - 131/63(79)} mmHg
   RR: 23 (19 - 27) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,579 mL
                                                                    233 mL
   PO:
             TF:
   IVF:
                                                                    982 mL
                                                                    233 mL
   Blood products:
                                                                    598 mL
   Total out:
                                                                    915 mL
                                                                    640 mL
   Urine:
                                                                    915 mL
                                                                    640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    664 mL
                                                                   -407 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///24/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : diffuse, No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.0 g/dL
   258 K/uL
   162 mg/dL
   0.5 mg/dL
   24 mEq/L
   3.6 mEq/L
   15 mg/dL
   106 mEq/L
   139 mEq/L
   27.4 %
   9.5 K/uL
        [image002.jpg]
                             [**2173-3-30**]  05:55 PM
                             [**2173-3-30**]  09:59 PM
                             [**2173-3-31**]  03:53 AM
                             [**2173-3-31**]  07:54 AM
                             [**2173-3-31**]  12:19 PM
                             [**2173-4-1**]  05:39 AM
   WBC
   9.6
   9.5
   Hct
   28.2
   23.0
   28.9
   29.5
   29.3
   27.4
   Plt
   293
   258
   Cr
   0.6
   0.5
   Glucose
   173
   162
   Other labs: PT / PTT / INR:13.6/26.0/1.2, ALT / AST:31/27, Alk Phos / T
   Bili:112/0.7, Lactic Acid:1.4 mmol/L, Albumin:2.9 g/dL, Ca++:7.3 mg/dL,
   Mg++:2.1 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   GI BLEED
 With dark stool, concern for UGI source.  No active UGI
   bleeding as NG lavage negative.  Concerns include PUD, steroid-induced
   gastritis.  GI consultation following.  Monitor serial Hct, serial
   exam.  Iv access with PICC and peripheral iv.  Continue PPI.  [**Month (only) 11**]
   require intubation for EGD procedure.  Discuss timing of EGD with GI
   service.
   HYPOXEMIA -- Increased oxygen requirement.  Multifactorial, including
   ILD/IPF, COPD.  Possibly due to net positive fluid balance.  No new
   radiographic evidence for progression, or new infiltrate, but markedly
   abnormal CXR.  Provide supplimental oxygen, maintain SaO2 >90%
   DIFFUSE PULMONARY INFILTRATES -- attributed to ARDS during recent
   hospitalization.  [**Month (only) 11**] have underlying ILD/IPF.  Taper steroids.
   ANEMIA
 attributed to GI blood loss;  may in part be related to recent
   surgery (minimally invasive).  Monitor serial Hct, transfuse to Hct >
   28.
   TACHYCARDIA -- attributed to rebound in setting of holding b-blocker.
   Monitor.
   FLUIDS
 suspect hypervolemia. Plan net diuresis.  Monitor I/O.
   CAD
 clinically stable.  Monitor.
   HYPERGLYCEMIA
 monitor glucose, manitain <150.
   COPD
 mild exacerbation.  Monitor exam.  F/U CXR.  Continue
   b-agonist.  Steroids.
   H. Zoster
 continue acyclovir.
   NUTRITIONAL SUPPORT
 NPO pending evaluation.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2173-3-31**] 07:59 AM
   22 Gauge - [**2173-3-31**] 08:21 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill